US07906504B2
To 2-[3-(3-chlorophenyl)-7-hydroxy-1-oxo-1H-isoquinolin-2-yl]-N-isopropylacetamide (INTERMEDIATE III.7) (0.60 g, 1.6 mmol) in dry pyridine (15 mL) at 0° C. was added trifluoromethanesulfonic anhydride (0.27 mL, 1.6 mmol) dropwise. After the addition the ice bath was removed and the reaction mixture was stirred for 2 h at room temperature. The mixture was then concentrated in vacuo and the crude residue taken up in EtOAc and washed with 1 N HCl (aq.) (1×20 mL) and brine (1×20 mL). The organic phase was dried (MgSO4), filtered and concentrated in vacuo to afford trifluoromethanesulfonic acid 3-(3-chlorophenyl)-2-(isopropylcarbamoylmethyl)-1-oxo-1,2-dihydroisoquinolin-7-yl ester (0.66 g, 1.3 mmol, 82%) as an orange solid, which was used without further purification. Data for trifluoromethanesulfonic acid 3-(3-chlorophenyl)-2-(isopropylcarbamoylmethyl)-1-oxo-1,2-dihydroisoquinolin-7-yl ester: MS (ESI), m/z: 444/446 ([M−C3H8N]+).

reactant | 2-[3-(3-chlorophenyl)-7-hydroxy-1-oxo-1H-isoquinolin-2-yl]-N-isopropylacetamide | 1.6 mmol, 0.60 g | ClC=1C=C(C=CC1)C=1N(C(C2=CC(=CC=C2C1)O)=O)CC(=O)NC(C)C | C20H19ClN2O3
reactant | trifluoromethanesulfonic anhydride | 1.6 mmol, 0.27 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | pyridine | 15 mL | N1=CC=CC=C1 | C5H5N
product | trifluoromethanesulfonic acid 3-(3-chlorophenyl)-2-(isopropylcarbamoylmethyl)-1-oxo-1,2-dihydroisoquinolin-7-yl ester | 1.3 mmol, 0.66 g, 82% | ClC=1C=C(C=CC1)C=1N(C(C2=CC(=CC=C2C1)OS(=O)(=O)C(F)(F)F)=O)CC(NC(C)C)=O | C21H18ClF3N2O5S
